US07393852B2
F. Preparation of N-((1R)-6-(2-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl)-1,2,3,4-tetrahydronaphthalen-1-yl)-2-(3-oxo-1-tosylpiperazin-2-yl)acetamide
To a 100 mL round bottom flask was added (1R)-6-(2-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl)-1,2,3,4-tetrahydronaphthalen-1-amine (25.0 mg, 0.06 mmol), followed by 2-(3-oxo-1-tosylpiperazin-2-yl)acetic acid (50 mg, 0.016 mmol), dry CH2Cl2 (10 mL), HATU (12 mg, 0.03 mmol), EDCI (13 mg, 0.068 mmol) and hunig base (0.022 mL, 0.123 mmol). The resulting mixture was stirred at rt for 20 h. Removed solvent to dryness. Solvent was removed. The residue was purified by chromatography on silica gel. Elution with CH2Cl2:MeOH mixture (97:3) gave final compound. MS m/z: 600.3 (M+H). Calc'd. for C32H33N5O5S -599.71.s

reactant | (1R)-6-(2-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl)-1,2,3,4-tetrahydronaphthalen-1-amine | 0.06 mmol, 25.0 mg | CC1=NOC(=N1)C1=C(C=CC=C1)C=1C=C2CCC[C@H](C2=CC1)N | C19H19N3O
reactant | 2-(3-oxo-1-tosylpiperazin-2-yl)acetic acid | 0.016 mmol, 50 mg | O=C1C(N(CCN1)S(=O)(=O)C1=CC=C(C)C=C1)CC(=O)O | C13H16N2O5S
reactant | HATU | 0.03 mmol, 12 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | EDCI | 0.068 mmol, 13 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | hunig base | 0.123 mmol, 0.022 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-((1R)-6-(2-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl)-1,2,3,4-tetrahydronaphthalen-1-yl)-2-(3-oxo-1-tosylpiperazin-2-yl)acetamide | CC1=NOC(=N1)C1=C(C=CC=C1)C=1C=C2CCC[C@H](C2=CC1)NC(CC1N(CCNC1=O)S(=O)(=O)C1=CC=C(C)C=C1)=O | C32H33N5O5S
